US05458975
3.1 g allyl methacrylate
The polymerization was initiated by adding 0.63 g bis(4-tertbutylcyclohexyl)-peroxydicarbonate and 0.06 g tertbutyl per-2-ethylhexanoate, in 6.2 g cyclohexane. After 75 min the internal temperature was increased to 75° C. and stirring was continued for 2 hr at this temperature. A coagulate-free dispersion was obtained. The dispersion contained <2 wt. % of fines (<1 micron). More than 98 wt. % of the particles had a size of 9 micron. The particles of 9 micron size were rough and angular. The particles were filtered out and were dried in vacuum.

reactant | bis(4-tertbutylcyclohexyl)-peroxydicarbonate | 0.63 g | C(C)(C)(C)C1CCC(CC1)OC(=O)OOC(=O)OC1CCC(CC1)C(C)(C)C | C22H38O6
reactant | 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC
solvent | cyclohexane | 6.2 g | C1CCCCC1 | C6H12
product | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
